US04800201
Preparation of 2-hydroxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
A mixture of pyridine, 2,2,2-trichloroethylchloroformate and 2-hydroxy-5-methyl-2H-1,4-thiazin-3(4H)-one was treated in the same manner as described in Example 6. The residue was recrystallized from ethanol to give the titled compound as pale yellow crystals.

reactant | 2,2,2-trichloroethylchloroformate | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2-hydroxy-5-methyl-2H-1,4-thiazin-3(4H)-one | OC1SC=C(NC1=O)C | C5H7NO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-hydroxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | OC1SC(=C(NC1=O)C)C1=CC=NC=C1 | C10H10N2O2S
